US08748418B2
To a solution of 5-chloropyridin-3-ol [CAS no 74115-12-1] (15 g, 116 mmol) in sodium carbonate (1 M in water, 232 ml, 232 mmol) at 23° C. was portionwise added iodine (29.4 g, 116 mmol) and the mixture was stirred for 5 h. Poured onto 1 M hydrochloric acid (300 ml), adjusted pH by additional hydrochloric acid to pH 1, the precipitate was filtered off, washed with water, dissolved in ethyl acetate, the organic layer was dried over Na2SO4. Removal of the solvent in vacuum left the 5-chloro-2-iodopyridin-3-ol (28.33 g, 111 mmol, 95.8% yield) as a light brown solid. MS (ISP): m/z=256.1 [(M+H)+] and 258.2 [(M+2+H)+].

reactant | 5-chloropyridin-3-ol | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | sodium carbonate | 232 mmol, 1 M, 232 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodine | 116 mmol, 29.4 g | II | I2
solvent | hydrochloric acid | 1 M, 300 ml | Cl | ClH
product | 5-chloro-2-iodopyridin-3-ol | 111 mmol, 28.33 g, 95.8% yield | ClC=1C=C(C(=NC1)I)O | C5H3ClINO
